US06310213B1
(R)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionic acid (cis)-1-benzyl-4-(4-methyl-benzyl)-piperidin-3-yl ester
The title compound was prepared from (3SR,4SR)-4-(4-methyl-benzyl)-piperidin-3-ol and (S)-(+)-alpha-methoxy-alpha-trifluoromethylphenylacetyl chloride in 33% yield as a yellow oil.

reactant | (3SR,4SR)-4-(4-methyl-benzyl)-piperidin-3-ol | CC1=CC=C(CC2C(CNCC2)O)C=C1 | C13H19NO
reactant | (S)-(+)-alpha-methoxy-alpha-trifluoromethylphenylacetyl chloride | CO[C@](C(=O)Cl)(C(F)(F)F)C1=CC=CC=C1 | C10H8ClF3O2
product | (R)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionic acid (cis)-1-benzyl-4-(4-methyl-benzyl)-piperidin-3-yl ester | 33% yield | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)CC1=CC=C(C=C1)C)OC([C@@](C(F)(F)F)(C1=CC=CC=C1)OC)=O | C30H32F3NO3
